* d:\esim\fossee\esim\library\subcircuitlibrary\an_pre\an_pre.cir

.include PMOS-180nm.lib
m1 vcc /bl gnd vcc CMOSP W=100u L=100u M=1
m2 vcc /bl gnd vcc CMOSP W=100u L=100u M=1
* u1  /bl port
.tran 10e-12 1e-09 0e-00 UIC

* Control Statements 
.control
run
*print allv > plot_data_v.txt
*print alli > plot_data_i.txt
.endc
.end
